US07388061B2
To 7.5 g (0.05 mol) 2-isoamyl-2-isopropyl-1,3-propandiol, which was prepared according to the process described in synthetic example 63, was added 50 ml tetrahydrofuran, then added 4.8 ml (0.06 mol) pyridine with stirring. To the resulting homogenous mixture was slowly added 4.6 ml (0.04 mol) benzoyl chloride. The mixture was stirred at room temperature for 1 hour and heated refluxing for 5 hours. Upon completing the reaction, the reaction mixture was cooled to room temperature. To the mixture was added 30 ml tetrahydrofuran, then added 4.8 ml (0.06 mol) pyridine with stirring. To the resulting homogenous mixture was slowly added 3.5 ml (0.04 mol) propionyl chloride. The mixture was stirred at room temperature for 1 hour, and heated refluxing for 5 hours. Upon completing the reaction, 40 ml water was added to dissolve the resulting salt. The mixture was extracted with ethyl acetate. The organic phase was separated, washed with saturated saline for two times, and dried over anhydrous sodium sulfate. The solvent was removed. Distillation under reduced pressure gave colorless liquid 2-isoamyl-2-isopropyl-1,3-propandiol monobenzoate monopropionate, and the yield was 91%. 1HNMR: δ (ppm) 0.87(d, 6H, CH3 of isoamyl), 0.93(d, 6H, CH3 of isopropyl), 0.99(t, 2H, CH3 of propionyl), 1.06(m, 4H, CH2 of isoamy), 1.11(m, 1H, CH of isoamyl), 1.14(m, 1H, CH of isopropyl), 2.29(m, 2H, CH2O of 1,3-propandiol), 4.28(m, 2H, CH2O of 1,3-propandiol), 4.38 (m, 2H, CH2 of propionyl), 7.41-8.03(m, 5H, ArH)

reactant | 2-isoamyl-2-isopropyl-1,3-propandiol | 0.05 mol, 7.5 g | C(CC(C)C)C(CO)(CO)C(C)C | C11H24O2
reactant | pyridine | 0.06 mol, 4.8 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 0.04 mol, 4.6 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | pyridine | 0.06 mol, 4.8 ml | N1=CC=CC=C1 | C5H5N
reactant | propionyl chloride | 0.04 mol, 3.5 ml | C(CC)(=O)Cl | C3H5ClO
solvent | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-isoamyl-2-isopropyl-1,3-propandiol monobenzoate monopropionate | yield was 91% | C(CC)(=O)OCC(COC(C1=CC=CC=C1)=O)(C(C)C)CCC(C)C | C21H32O4
